US07863291B2
(R)—N-(6-Bromothiazolo[5,4-b]pyrazin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (44 mg, 0.111 mmol) was suspended in MeOH (50 mL) and 3N HCl was added until all solids had dissolved (˜10 ml). The reaction flask was flushed with nitrogen and then 10% palladium on carbon (35 mg) was added, and the flask was fitted with a hydrogen balloon. The mixture was allowed to react overnight, at which time TLC showed consumption of the starting material. The flask was flushed with nitrogen, filtered through celite and washed with methanol. The combined filtrates were concentrated by ˜90% to remove most of the methanol, and the solution was made basic by the addition of a saturated solution of sodium bicarbonate. The basic aqueous phase was extracted with chloroform (4×). The combined organics were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The mixture was purified by silica gel chromatography (2-40% [9:1 methanol:ammonium hydroxide]-chloroform). The product fractions were combined and concentrated in vacuo to afford (R)—N-(thiazolo[5,4-b]pyrazin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (24 mg, 0.075 mmol, 67.5% yield). 1H NMR (400 MHz, CDCl3) δ ppm 9.50 (br. s., 1 H) 8.41 (d, J=2.76 Hz, 1 H) 8.27 (d, J=2.76 Hz, 1 H) 4.06 (d, J=9.79 Hz, 1 H) 3.72 (d, J=9.79 Hz, 1 H) 3.43 (dd, J=15.06, 1.76 Hz, 1 H) 2.74-3.09 (m, 5 H) 2.12-2.25 (m, 2 H) 1.71-1.86 (m, 1 H) 1.49-1.67 (m, 2 H). MS (LC/MS) R.T.=0.75; [M+H]+=317.13.

reactant | (R)—N-(6-Bromothiazolo[5,4-b]pyrazin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 0.111 mmol, 44 mg | BrC1=CN=C2C(=N1)SC(=N2)NC=2O[C@]1(CN3CCC1CC3)CN2 | C14H15BrN6OS
reactant | HCl | 3N | Cl | ClH
solvent | MeOH | 50 mL | CO | CH4O
product | (R)—N-(thiazolo[5,4-b]pyrazin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 0.075 mmol, 24 mg, 67.5% yield | S1C(=NC=2C1=NC=CN2)NC=2O[C@]1(CN3CCC1CC3)CN2 | C14H16N6OS
